US05021431
N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenylthiopropyl)-guanidine
0.84 g (2 mmol) of N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(3-phenylthiopropyl)-guanidine are heated under reflux in 18% hydrochloric acid for 7 hours and then worked up by a method analogous to that of Example 58. 0.71 g (91%) of a dry, hygroscopic foam is obtained.

reactant | N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(3-phenylthiopropyl)-guanidine | 2 mmol, 0.84 g | C(C1=CC=CC=C1)(=O)NC(=NCCCSC1=CC=CC=C1)NCCCC=1N=CNC1 | C23H27N5OS
solvent | hydrochloric acid | Cl | ClH
product | N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenylthiopropyl)-guanidine | N1C=NC(=C1)CCCNC(=N)NCCCSC1=CC=CC=C1 | C16H23N5S
